US07214673B2
2-(4-Fluoro-2-nitro-phenylamino)-5-isopropyl-benzonitrile
Heat a solution of 2-amino-5-isopropyl-benzonitrile (1.482 g, 9.25 mmol) with 1,4-difluoro-2-nitro-benzene (1.47 g, 9.25 mmol) and lithium hydroxide monohydrate (0.78 g, 18.50 mmol) in DMSO (20 ml) to 70° C. for 38 hours. Cool the reaction to ambient temperature and then pour into approximately 200 ml of ice water and stir for one hour. The title compound precipitates and collection by filtration to obtain 2.236 g (7.47 mmol, 81% yield) of the title compound as an orange amorphous solid: Mass Spectrum (m/e): 300(M+1).

reactant | 2-amino-5-isopropyl-benzonitrile | 9.25 mmol, 1.482 g | NC1=C(C#N)C=C(C=C1)C(C)C | C10H12N2
reactant | 1,4-difluoro-2-nitro-benzene | 9.25 mmol, 1.47 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | lithium hydroxide monohydrate | 18.50 mmol, 0.78 g | O.[OH-].[Li+]
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | 2-(4-Fluoro-2-nitro-phenylamino)-5-isopropyl-benzonitrile | 7.47 mmol, 2.236 g, 81% yield | FC1=CC(=C(C=C1)NC1=C(C#N)C=C(C=C1)C(C)C)[N+](=O)[O-] | C16H14FN3O2
